US06495541B1
A solution of methyl indole-4-carboxylate (250 mg, 1.43 mmol) in dichloroethane (2 mL) was treated with a solution of POCl3-DMF (1.5 equivalent (eq)) at room temperature (rt). The orange solution was heated at 50° C. for 1 hour. The reaction solution was poured into ice-cold aqueous (aq.) NaOAc (1 g in 2 mL), the aqueous solution was adjusted to pH=8 with 1 M NaOH, and extracted with EtOAc (10 mL×3). The organic solution was washed with water and brine, dried (Na2SO4), filtered, and concentrated to give methyl 3-formyl-indole-4-carboxylate as an oil, 271 mg (93%). 1H NMR (300 MHz, d6-DMSO) δ3.68 (s, 3H), 7.16 (t, 1H, J=7.8 Hz), 7.40 (dd, 1H, J=7.8, 0.8 Hz), 7.56 (d, 1H, J=7.8, 0.8 Hz), 8.16 (d, 1H, J=3.2 Hz), 10.00 (s, 1H), 12.30 (br s, 1H).

reactant | methyl indole-4-carboxylate | 1.43 mmol, 250 mg | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | POCl3 DMF | 1.5 equivalent | O=P(Cl)(Cl)Cl.CN(C)C=O
reactant | NaOAc | 2 mL, 1 g | CC(=O)[O-].[Na+]
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | methyl 3-formyl-indole-4-carboxylate | C(=O)C1=CNC=2C=CC=C(C12)C(=O)OC | C11H9NO3
